US07579469B2
To a yellow solution of 20 g of 4-methylanisole and 1.7 mL of concentrated sulfuric acid was added dropwise 19.17 mL of 3-chloro-2-methylpropene. The reaction became warm and turned dark purple and after 20 minutes a precipitate formed. The reactions was monitored by TLC indicating a new less polar product. After 18 hours, the reaction was poured onto ice and extracted with diethyl ether. The combined organic layers were dried over magnesium sulfate, filtered, and concentrated in vacuo to leave an oil. The residue was diluted with hexanes, cooled to −78° C., and the solids collected by filtration to afford 14 g of 2-(2-chloro-1,1-dimethylethyl)-1-methoxy-4-methylbenzene which melted upon warming to room temperature. The filtrate was concentrated in vacuo to afford 15.5 g of product and starting anisole (4:1 mixture).

reactant | 4-methylanisole | 20 g | CC1=CC=C(C=C1)OC | C8H10O
reactant | sulfuric acid | 1.7 mL | S(O)(O)(=O)=O | H2O4S
reactant | 3-chloro-2-methylpropene | 19.17 mL | ClCC(=C)C | C4H7Cl
product | 2-(2-chloro-1,1-dimethylethyl)-1-methoxy-4-methylbenzene | 14 g | ClCC(C)(C)C1=C(C=CC(=C1)C)OC | C12H17ClO
